US08835444B2
Step 3: Trans-4-(3,5-Diethyl-pyrazol-1-ylmethyl)-cyclohexylamine hydrochloride
Trans-[4-(3,5-Diethyl-pyrazol-1-ylmethyl)-cyclohexyl]-carbamic acid tert-butyl ester (80 mg, 0.24 mmol) was dissolved in MeOH (1 ml). 4M HCl/dioxan (1 ml) was added and the RM was stirred at RT for 2 hours. The solvent was removed in vacuo to afford the title product which was used without further purification; LC-MS Rt 1.59 mins [M+H]+ 236.

reactant | Trans-[4-(3,5-Diethyl-pyrazol-1-ylmethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 0.24 mmol, 80 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CN1N=C(C=C1CC)CC)=O | C19H33N3O2
reactant | HCl dioxan | 4M, 1 ml | Cl.O1CCOCC1
solvent | MeOH | 1 ml | CO | CH4O
product | Trans-4-(3,5-Diethyl-pyrazol-1-ylmethyl)-cyclohexylamine hydrochloride | Cl.C(C)C1=NN(C(=C1)CC)C[C@@H]1CC[C@H](CC1)N | InChI=1S/C14H25N3.ClH/c1-3-13-9-14(4-2)17(16-13)10-11-5-7-12(15)8-6-11;/h9,11-12H,3-8,10,15H2,1-2H3;1H/t11-,12-;
